// Generated for: spectre 
// Generated on: May 16 21:37:28 2024 
// Design library name: Passive_mixer_ee20b087 
// Design cell name: Mixer_SB_VM_25D_TB_tsmc 
// Design view name: schematic 
simulator lang=spectre 
global 0 
parameters cap_w=17.549410518 
parameters flo=100000000.0 
parameters frf1=101000000.0 
parameters frf2=101100000.0 
parameters prf=-10 
parameters prf_min=-30 
parameters prf_max=-5 
parameters prf_step=0.5 
parameters res_w=35.1317291919 
parameters sw_mul=2 
parameters temperature=27
include "/cad/library/TSMC/65/lp/tsmcN65/../models/spectre/toplevel.scs" section=tt_lib 
 
// Library name: Passive_mixer_ee20b087
// Cell name: RC_tank
// View name: schematic
subckt RC_tank in
parameters _par0=10 _par1=10
    R0 (in 0 0) rppolyl_rf l=_par0*1u w=2u m=1 mismatchflag=0
    C4 (in 0 0) mimcap_um_sin_rf lt=_par1*4u wt=_par1*4u m=1 mimflag=3 \
        mismatchflag=0
    C3 (in 0 0) mimcap_um_sin_rf lt=_par1*4u wt=_par1*4u m=1 mimflag=3 \
        mismatchflag=0
    C2 (in 0 0) mimcap_um_sin_rf lt=_par1*4u wt=_par1*4u m=1 mimflag=3 \
        mismatchflag=0
    C1 (in 0 0) mimcap_um_sin_rf lt=_par1*4u wt=_par1*4u m=1 mimflag=3 \
        mismatchflag=0
    C0 (in 0 0) mimcap_um_sin_rf lt=_par1*4u wt=_par1*4u m=1 mimflag=3 \
        mismatchflag=0
ends RC_tank
// End of subcircuit definition.

// Library name: Passive_mixer_ee20b087
// Cell name: voltage_mode_SB_25D_tsmc
// View name: schematic
subckt voltage_mode_SB_25D_tsmc LO\+ LO\- VO_N VO_P V_RF
    I0 (VO_P) RC_tank _par0=res_w _par1=cap_w
    I1 (VO_N) RC_tank _par0=res_w _par1=cap_w
    M0 (V_RF LO\+ VO_P 0) nmos_rf lr=60n wr=2u nr=1 sa=450.0n sb=450.0n \
        sd=240.0n sca=1.53113 scb=3.91406e-06 scc=5.45081e-12 m=sw_mul \
        sigma=1
    M1 (V_RF LO\- VO_N 0) nmos_rf lr=60n wr=2u nr=1 sa=450.0n sb=450.0n \
        sd=240.0n sca=1.53113 scb=3.91406e-06 scc=5.45081e-12 m=sw_mul \
        sigma=1
ends voltage_mode_SB_25D_tsmc
// End of subcircuit definition.

// Library name: Passive_mixer_ee20b087
// Cell name: Mixer_SB_VM_25D_TB_tsmc
// View name: schematic
E4 (net022 0 VO_IP 0) vcvs gain=1.0
E3 (\270D_OUT 0 net011 0) vcvs gain=1.0
E2 (\90D_OUT 0 net07 0) vcvs gain=1.0
E1 (\180D_OUT 0 net012 0) vcvs gain=1.0
E0 (\0D_OUT 0 net08 0) vcvs gain=1.0
E5 (net021 0 VO_IN 0) vcvs gain=1.0
I0 (\0D_OUT \180D_OUT VO_IN VO_IP net9) voltage_mode_SB_25D_tsmc
I1 (\90D_OUT \270D_OUT VO_QN VO_QP net9) voltage_mode_SB_25D_tsmc
PORT0 (net9 0) port r=50 type=sine freq=frf1 dbm=prf freq2=frf2 dbm2=prf \
        pacmag=1 fundname="frf1" fundname2="frf2"
PORT4 (net011 0) port r=50 type=pulse delay=0.75*(1/flo) val0=0 val1=1.2 \
        period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \
        width=0.25*(1/flo) fundname="LO_270"
PORT3 (net07 0) port r=50 type=pulse delay=0.25*(1/flo) val0=0 val1=1.2 \
        period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \
        width=0.25*(1/flo) fundname="LO_90"
PORT2 (net012 0) port r=50 type=pulse delay=0.5*(1/flo) val0=0 val1=1.2 \
        period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \
        width=0.25*(1/flo) fundname="LO_180"
PORT1 (net08 0) port r=50 type=pulse delay=0 val0=0 val1=1.2 period=1/flo \
        rise=0.001*(1/flo) fall=0.001*(1/flo) width=0.25*(1/flo) \
        fundname="LO_0"
R3 (net07 0) resistor r=50
R2 (net011 0) resistor r=50
R0 (net08 0) resistor r=50
R1 (net012 0) resistor r=50
PORT5 (net022 net021) port r=50 type=dc
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=temperature tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
// ANALYSIS STATEMENTS 
sweephb  sweep  param=prf  start=prf_min  stop=prf_max  step=prf_step  { 
hb_test  hb  autotstab=yes  oversample=[1  1  1]  fundfreqs=[(flo)  (frf1) 
+   (frf2)]  maxharms=[30  3  3]  errpreset=conservative  annotate=status 
 
} 
modelParameter info what=models where=rawfile 
element info what=inst where=rawfile 
outputParameter info what=output where=rawfile 
designParamVals info what=parameters where=rawfile 
primitives info what=primitives where=rawfile 
subckts info what=subckts where=rawfile 
saveOptions options save=allpub 
